US05811439
The same procedures used in Example 1 were repeated except for using 2.35 g of 2,6-difluorobenzyl chloride and 2.00 g of indole-4-carbaldehyde as a starting material to give 3.74 g of 1-(2,6-difluorobenzyl)indole-4-carbaldehyde as pale yellow crystals. The yield thereof was found to be 100%.

reactant | 2,6-difluorobenzyl chloride | 2.35 g | FC1=C(CCl)C(=CC=C1)F | C7H5ClF2
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-(2,6-difluorobenzyl)indole-4-carbaldehyde | 3.74 g | FC1=C(CN2C=CC=3C(=CC=CC23)C=O)C(=CC=C1)F | C16H11F2NO
